US07132425B2
A mixture of 2-amino-5-bromopyrazine (500 mg, 2.874 mmol), dichlorobis(triphenylphosphine)palladium(II) (290 mg, 0.413 mmol), 3-thiopheneboronic acid (500 mg, 3.908 mmol), and a saturated aqueous sodium carbonate solution (4 mL) in ethylene glycol dimethyl ether (8 mL) and ethanol (8 mL) was heated under reflux for 45 min. The reaction mixture was then cooled, diluted with ethyl acetate, and washed with water and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 1/1 hexanes/ethyl acetate) afforded 5-thiophen-3-yl-pyrazin-2-ylamine (351.3 mg, 69%) as a light purple solid: EI-HRMS m/e calcd for C8H7N3S (M+) 177.0361, found 177.0358.

reactant | 2-amino-5-bromopyrazine | 2.874 mmol, 500 mg | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | 3-thiopheneboronic acid | 3.908 mmol, 500 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 8 mL | COCCOC | C4H10O2
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.413 mmol, 290 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-thiophen-3-yl-pyrazin-2-ylamine | 351.3 mg, 69% | S1C=C(C=C1)C=1N=CC(=NC1)N | C8H7N3S
